US04028376
Using 3-t-butyl-5-isoxazolyl isocyanate and methyl mercaptan, the reaction is effected as in Synthetic Example 17, whereby S-methyl 3-t-butyl-5-isoxazolylthiocarbamate is obtained as crystals melting at 104.0° to 105.5° C.

reactant | 3-t-butyl-5-isoxazolyl isocyanate | C(C)(C)(C)C1=NOC(=C1)N=C=O | C8H10N2O2
reactant | methyl mercaptan | CS | CH4S
product | S-methyl 3-t-butyl-5-isoxazolylthiocarbamate | C(C)(C)(C)C1=NOC(=C1)NC(SC)=O | C9H14N2O2S
